US05089498
B. Preparation of methyl 3-butyryl-4(1H)-quinolone-8-carboxylate
Ethyl 2-butyryl-3-(2-carbomethoxyphenylamino)acrylate (8.63 g, 27.0 mmol) was added to boiling diphenyl ether (40 ml), and heated at reflux for 1 hour. On cooling, methyl 3-butyryl-4(1H)-quinolone-8-carboxylate (4.06 g, 55%) crystallised and was filtered off and washed with ether, m.p. 151-153°.

reactant | Ethyl 2-butyryl-3-(2-carbomethoxyphenylamino)acrylate | 27.0 mmol, 8.63 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)C(=O)OC | C17H21NO5
solvent | diphenyl ether | 40 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | methyl 3-butyryl-4(1H)-quinolone-8-carboxylate | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)C(=O)OC | C15H15NO4
